US05726172
The 2-ethyl-3-hydroxymethylpyridine (2.3 g, 16.8 mmol) was dissolved in CH2Cl2 (100 mL) and cooled under nitrogen to 0° C. and thionyl chloride (7.0 mL) was slowly added and the reaction was stirred for 3 hours. The solvent was removed under reduced pressure and the residue was partitioned between CH2Cl2 (100 mL) and saturated aqueous sodium bicarbonate (100 mL). The organic layer was dried with MgSO4, filtered, and the solvent removed under reduced pressure to give the desired 2-ethyl-3-chloromethylpyridine.

reactant | 2-ethyl-3-hydroxymethylpyridine | 16.8 mmol, 2.3 g | C(C)C1=NC=CC=C1CO | C8H11NO
reactant | thionyl chloride | 7.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-ethyl-3-chloromethylpyridine | C(C)C1=NC=CC=C1CCl | C8H10ClN
